US07332529B2
Synthesis of 3,5-didodecoxybenzyl Alcohol
To a flame dried 1 L RBF containing a stir bar, LAH (1.80 g, 47.5 mmol) was added. The RBF was placed in an ice bath and the reaction was capped with a septum containing a nitrogen gas line and an out-vent. Dry THF (10 mL) was added through the septum while the mixture was stirring. Methyl 3,5-dinonyloxybenzoate (20 g, 39.6 mmol) was dissolved and added in 60 mL dry THF, drop-wise through the septum. After 30 minutes, the nitrogen line and out-vent were removed and the septum was changed. The mixture was allowed to stir overnight. The RBF was placed in an ice bath. Distilled water (250 mL) was added drop-wise through the septum until the color of the reaction mixture turned white-grey. The reaction mixture was allowed to stir at room temperature for 10 minutes and then 100 mL 1M hydrochloric acid was added until the pH reached lower than 2. The mixture was then extracted with ether (5 times using 200 mL). The ether layers were combined and then washed with 200 mL distilled water, 200 mL of aqueous sodium carbonate (5%), 200 mL distilled water, and 200 mL brine, and then dried with magnesium sulfate and gravity filtered. The solvent was removed under reduced pressure yielding 13.2 g or 92.6%. The NMR characterization data for the derivative is as follows. 1NMR (300 MHz, CDCl3): 0.87 (t, J=6.6, 6H, CH2CH3), 1.15-1.6 (m, 36H, CH2(CH2)9), 1.76 (p, J=8.0, 4H, OCH2CH2), 3.9 (t, J=6.6, 4H, OCH2CH2), 4.6 (d, J=5.0, 2H, ArCH2), 6.36 (t, J=2.2, 1H, ArH), 6.52 (d, J=2.2, 2H, ArH).

reactant | LAH | 47.5 mmol, 1.80 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Methyl 3,5-dinonyloxybenzoate | 39.6 mmol, 20 g | C(CCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1)OCCCCCCCCC | C26H44O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,5-didodecoxybenzyl Alcohol | C(CCCCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCCCC | C31H56O3
